US07279469B2
5-Amino-3-(4-sulfamoyl-phenylamino)-[1,2,4]triazole-1-carbothioic acid (4-phenoxy-phenyl)-amide:
Thiocarbonyldiimidazole (0.56 mmol, 1.5 equivalent) was added to a solution of 4-phenoxy aniline (0.6 mmol, 1.6 equivalents) and imidazole (0.07 mmol, 0.2 equivalent) in acetonitrile (5 ml). The reaction mixture was stirred at room temperature for three hours. 4-(5-Amino-1H-[1,2,4]triazol-3-ylamino)-benzenesulfonamide (0.37 mM, 1 equivalent) was added in one portion. The reaction mixture was stirred at 50° C. for 16 hours. After addition of DMF (1 ml), the reaction mixture was stirred at 80° C. for one hour. The reaction mixture was concentrated in vacuo. The residue was purified by silica gel chromatography, eluting with EtOAc:pentane (30:70 to 0:100) to afford the title compound (40 mg; 40% yield). 1H NMR (400 MHz, DMSO-d6) 7.05-7.18 (6H, m), 7.20-7.23 (1H, t), 7.40-7.50 (4H, m), 7.70-7.75 (2H, d), 7.80-7.85 (2H, d), 8.45-8.50 (2H, s), 9.80-9.85 (1H, s), 10.90 (1H, s); MS (ES+) m/e=482

reactant | Thiocarbonyldiimidazole | 0.56 mmol, 1.5 equivalent | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 4-phenoxy aniline | 0.6 mmol, 1.6 equivalents | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | imidazole | 0.07 mmol, 0.2 equivalent | N1C=NC=C1 | C3H4N2
reactant | 4-(5-Amino-1H-[1,2,4]triazol-3-ylamino)-benzenesulfonamide | 0.37 mM, 1 equivalent | NC1=NC(=NN1)NC1=CC=C(C=C1)S(=O)(=O)N | C8H10N6O2S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 5-Amino-3-(4-sulfamoyl-phenylamino)-[1,2,4]triazole-1-carbothioic acid (4-phenoxy-phenyl)-amide | 40 mg, 40% yield | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(=S)N1N=C(N=C1N)NC1=CC=C(C=C1)S(N)(=O)=O | C21H19N7O3S2
